### PR TITLE
Make reasoning modular by adding new `Reasoning.Syntax` module

### LINKED ISSUE #2146: Make reasoning syntax actually modular
While trying to fix #2145 and #1138 I've realised quite how much duplication has crept into the many many `Reasoning` modules we have in the library. Trying to change the syntax is incredibly painful as you have to do it all over the library.

I think a modular approach along the lines of:
```agda
module Relation.Binary.Reasoning.Base.Syntax
  {a ℓ} {A : Set a} (_R_ : Rel A ℓ) where

------------------------------------------------------------------------
-- Propositional equality syntax

module ≡-step-syntax where

  -- Step with a non-trivial propositional equality
  step-≡ : ∀ x {y z} → y R z → x ≡ y → x R z
  step-≡ _ x∼z refl = x∼z

  -- Step with a definition identity
  step-≡-refl : ∀ (x : A) {y} → x R y → x R y
  step-≡-refl x xRy = xRy

  -- Step with a flipped non-trivial propositional equality
  step-≡-sym : ∀ x {y z} → y R z → y ≡ x → x R z
  step-≡-sym _ x∼z refl = x∼z

  infixr 2 step-≡ step-≡-refl step-≡-sym

  syntax step-≡-refl x xRy     = x ≡⟨⟩ xRy
  syntax step-≡-sym  x yRz y≡x = x ≡⟨ y≡x ⟨ yRz
  syntax step-≡      x yRz x≡y = x ≡⟨ x≡y ⟩ yRz

------------------------------------------------------------------------
-- Setoid equality syntax

module ≈-syntax
  {ℓ₂} {_≈_ : Rel A ℓ₂}
  (sym : Symmetric _≈_)
  (step : Trans _≈_ _R_ _R_)
  where

  -- Step with the setoid equality
  step-≈ : ∀ (x : A) {y z} → y R z → x ≈ y → x R z
  step-≈ x yRz x≈y = step {x} x≈y yRz

  -- Flipped step with the setoid equality
  step-≈-sym : ∀ x {y z} → y R z → y ≈ x → x R z
  step-≈-sym x y∼z x≈y = step-≈ x y∼z (sym x≈y)

  syntax step-≈     x y∼z x≈y = x ≈⟨ x≈y ⟩ y∼z
  syntax step-≈-sym x y∼z y≈x = x ≈⟨ y≈x ⟨ y∼z
```
where we can then use these modules to mix and match whatever syntax we want for a particular `Reasoning` module.

I'm going to try and squeeze this in for `v2.0` as this will make the two issues above almost trivial to do.

### PR DESCRIPTION
**Pull request by MatthewDaggitt**
Fixes #2146. The main contribution of this to move as many reasoning syntax declarations as possible into the new module `Relation.Binary.Reasoning.Syntax`, whose parts are then picked as desired by each individual `Reasoning` module.

This has several advantages:
 1. Much easier to rename or add new syntax to when building custom `Reasoning` modules
 2. Centralises all the syntax declarations and documentation so that it is much easier to maintain.

See the list at the top of the `Syntax` module for the short list of `Reasoning` modules that for a variety of reasons aren't immediately amenable to this approach.

This change is backwards compatible as evidenced by the fact that no reasoning proofs have had to be changed. The interface for the `Reasoning` modules themselves also remains the same.

### CODE REVIEW

**Comment by jamesmckinna** [comment]
Bravo! (modulo the wicked-looking typechecking failures... is this behaviour new to 2.6.4?)

File: src/Relation/Binary/Reasoning/Syntax.agda [hunk 1]
```diff
@@ -0,0 +1,366 @@
...
+      syntax step-⤖ x yRz x⤖y = x ⤖⟨ x⤖y ⟩ yRz
+      syntax step-⬻ x yRz y⤖x = x ⬻⟨ y⤖x ⟩ yRz
+
+
+    -- Inverse syntax
+    module ↔-syntax where
+      infixr 2 step-↔ step-↔-sym
+      step-↔ = forward
+      step-↔-sym = backward
+      syntax step-↔ x yRz x⤖y = x ↔⟨ x⤖y ⟩ yRz
```
Comment (JacquesCarette) [inline src/Relation/Binary/Reasoning/Syntax.agda:305]: Perhaps a bit too much cut-and-paste, here and below, in the name of the 3rd argument? If this ever leaks out (say in the names that Agda suggests), it might make things harder for the users to understand.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
This is a superb change! Worth sneaking it in under the wire. I spotted one tiny thing that should be polished though.

File: src/Relation/Binary/Reasoning/Syntax.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Relation/Binary/Reasoning/Syntax.agda]: Nice spot, fixed!

**Comment by MatthewDaggitt** [comment]
> And what is weird is that the 'obvious' instantiations of the _ terms supplied to ℤ.*-cancelʳ-≡ on line 855 (identified as the source of the error) of Data.Rational.Properties, namely ↥ᵘ (toℚᵘ (p + q)) and ↧+ᵘ p q are not enough to nudge the typechecker into accepting the whole proof. Very weird indeed...

Yup, so the chain of events was:
1. The definition of the `≃` combinators in `Data.Rational.Properties.≤-Reasoning` were buggy as they actually accepted proofs of type `≡`.
2. Fixing this required proving that `≃` is `Symmetric`
3. Which revealed that the definition of `≃` suffers the same eager reducing performance problems, previously fixed, for the rational operations.
4. Which fixing caused the unsolved metas.

So thankfully this isn't actually a side effect of the reasoning refactor, it was just a knock on consequence that the definition of `≃` needed to be fixed :relieved:

**Comment by jamesmckinna** [comment]
Wow!? Great summary of a wicked problem. Very interesting, and thanks for taking the time to hunt it down and document the solution. Fascinating.

File: src/Relation/Binary/Reasoning/Syntax.agda [hunk 2]
```diff
@@ -0,0 +1,366 @@
...
+    backward : ∀ x {y z} → S y z → U y x → T x z
+    backward x yRz x≈y = forward x yRz (sym x≈y)
+
+    -- Setoid equality syntax
+    module ≈-syntax where
+      infixr 2 step-≈ step-≈˘
+      step-≈ = forward
+      step-≈˘ = backward
+      syntax step-≈  x yRz x≈y = x ≈⟨ x≈y ⟩ yRz
+      syntax step-≈˘ x yRz y≈x = x ≈˘⟨ y≈x ⟩ yRz
```
Comment (jamesmckinna) [inline src/Relation/Binary/Reasoning/Syntax.agda:261]: Coming, as ever, late to this: in #2268 I've had to use explicit `x ≈⟨ refl ⟩...` steps, because there is no abbreviation `≈⟨⟩` declared, whereas `≡⟨⟩` *is* available as an alternative. Was this what you intended, or should there be a bug-fixing issue/PR raised to add the additional syntax?

Comment (MatthewDaggitt) [reply src/Relation/Binary/Reasoning/Syntax.agda:261]: Yes, the intent is that people should use `≡⟨⟩` not `≈⟨⟩`
